US06869954B2
4) Preparation of 4-carboxy-6-(3-fluoro-4-methylphenyl)-2H-pyridazin-3-one
To a solution of ethyl 2-ethoxycarbonyl-4-(3-fluoro-4-methylphenyl)-2-hydroxy-4-oxobutanoate (8.41 g, 25.8 mmol) in isopropanol (100 mL) was added hydrazine monohydrate (2.84 g, 56.8 mmol), and the mixture was heated under stirring at 100° C. for 6 hours. Then, 2 mol/L sodium hydroxide was added, and the mixture was stirred further at the same temperature for 4 hours. The reaction mixture was ice-cooled, and concentrated hydrochloric acid was added to acidify the system. The precipitate was collected by filtration, thoroughly washed with water and dried to yield the title compound as a slightly yellow crystalline powder (5.67 g, 87.7%).

reactant | ethyl 2-ethoxycarbonyl-4-(3-fluoro-4-methylphenyl)-2-hydroxy-4-oxobutanoate | 25.8 mmol, 8.41 g | C(C)OC(=O)C(C(=O)OCC)(CC(=O)C1=CC(=C(C=C1)C)F)O | C16H19FO6
reactant | hydrazine monohydrate | 56.8 mmol, 2.84 g | O.NN
reactant | sodium hydroxide | 2 mol/L | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 4-carboxy-6-(3-fluoro-4-methylphenyl)-2H-pyridazin-3-one | C(=O)(O)C=1C(NN=C(C1)C1=CC(=C(C=C1)C)F)=O | C12H9FN2O3
